US04470989
41.2 1-[(Benzo-1,4-dioxan-2-yl)-methyl]-4-(5-chloro-2-nitroanilino)-piperidine
11.5 g of 2-bromomethyl-1,4-benzodioxane, 20.4 g of 4-(5-chloro-2-nitroanilino)-piperidine hydrobromide, 20 g of potassium carbonate and 0.5 g of potassium iodide were dissolved in 120 ml of methyl isopropyl ketone and the solution was heated under reflux for 24 hours. After the mixture had been cooled, water was added and the organic phase was separated off, dried and concentrated.

reactant | 2-bromomethyl-1,4-benzodioxane | 11.5 g | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | 4-(5-chloro-2-nitroanilino)-piperidine hydrobromide | 20.4 g | Br.ClC=1C=CC(=C(NC2CCNCC2)C1)[N+](=O)[O-]
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | methyl isopropyl ketone | 120 ml | C(C)(C)C(=O)C | C5H10O
solvent | water | O | H2O
product | 1-[(Benzo-1,4-dioxan-2-yl)-methyl]-4-(5-chloro-2-nitroanilino)-piperidine | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)NC2=C(C=CC(=C2)Cl)[N+](=O)[O-] | C20H22ClN3O4
